US07223791B2
To a solution (70 ml) of 4-chloro-N-hydroxybenzenimidoyl chloride (3.28 g) and methyl 4-ethynylbenzoate (3.00 g) in tetrahydrofuran was added dropwise a solution (5 ml) of triethylamine (2.8 ml) in tetrahydrofuran under an argon atmosphere at 0° C. This mixture was stirred overnight at room temperature and poured into dilute hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1, volume ratio) to give methyl 4-[3-(4-chlorophenyl)-5-isoxazolyl]benzoate (4.40 g, yield 81%). Recrystallization from hexane-acetone gave colorless prism crystals. melting point: 225–226° C.

reactant | 4-chloro-N-hydroxybenzenimidoyl chloride | 70 ml, 3.28 g | ClC1=CC=C(C=C1)C(=NO)Cl | C7H5Cl2NO
reactant | methyl 4-ethynylbenzoate | 3.00 g | C(#C)C1=CC=C(C(=O)OC)C=C1 | C10H8O2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-[3-(4-chlorophenyl)-5-isoxazolyl]benzoate | 4.40 g, yield 81% | ClC1=CC=C(C=C1)C1=NOC(=C1)C1=CC=C(C(=O)OC)C=C1 | C17H12ClNO3
